* D:\Projects\Electronic-Circuits\Automate\Read Measurement Log\LowPassFilter_Meas.asc
V1 in 0 SINE(0 5 {freq} 0 0)
R1 out in {res}
C1 out 0 {cap}
.tran 5m
.param freq=1k
.param res=1k cap=0.1u
.options plotwinsize=0
.save V(in) V(out)
* Turn Off Raw-Data Compression
* Limit the Quantity of Saved Data
* RC Low Pass Filter of 1st Order
.meas TRAN Vout_avg AVG V(out) FROM 0m TO 3m
* Measurements
.meas TRAN Vout_max MAX V(out) FROM 0m TO 3m
.meas TRAN Vout_min MIN V(out) FROM 0m TO 3m
.meas TRAN Vout_at_time FIND V(out) AT 3m
.meas TRAN Vout_dev DERIV V(out) AT 2m
.meas TRAN Vout_bad DERIV V(out2) AT 1.2m
* Bad Measurement
.backanno
.end
